US09079880B2
Synthesis of 3-((S)-1-tert-Butoxycarbonylamino-ethyl)-benzoic acid
To a suspension of (S)-3-(1-aminoethyl)benzoic acid HCl (734 mg, 3.64 mmol) in methylene chloride (5 mL) at room temperature add Et3N (1.02 mL, 7.28 mmol) followed by di-tert-butyl-dicarbonate (883 mg, 4.004 mmol) as a solution in methylene chloride (5 mL). Stir the reaction at room temperature for 24 h adding DMF (5 mL) to help solubilization. Partition the reaction between EtOAc (200 mL) and water (200 mL) acidified with 1 mL glacial HOAc. Extract the aqueous layer with more EtOAc (200 mL) and wash the combined organics with water (200 mL) and brine (50 mL). Dry the organics (Na2SO4) and concentrate. Triturate the residue in Et2O and hexane, and filter the solid to afford the title compound as a white solid (550 mg) white solid.

reactant | (S)-3-(1-aminoethyl)benzoic acid HCl | 3.64 mmol, 734 mg | Cl.N[C@@H](C)C=1C=C(C(=O)O)C=CC1
reactant | Et3N | 7.28 mmol, 1.02 mL | CCN(CC)CC | C6H15N
reactant | di-tert-butyl-dicarbonate | 4.004 mmol, 883 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | HOAc | 1 mL | CC(=O)O | C2H4O2
product | 3-((S)-1-tert-Butoxycarbonylamino-ethyl)-benzoic acid | 550 mg | C(C)(C)(C)OC(=O)N[C@@H](C)C=1C=C(C(=O)O)C=CC1 | C14H19NO4
